US09169215B2
A light brown solution of 3-(cyclopentylamino)-2-(3,4,5-trimethoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile (330 mg, 0.865 mmol) in DMSO (100 mL) was stored for 60 days at RT. Within one day, it became a light brown solution and no precipitation was observed during these 60 days. Then, it was poured into water (1 L) and the resulting precipitate was extracted into EA (2×75 mL). The combined extracts were washed with water, brine solution, and dried over anhydrous MgSO4. Filtration and concentration gave the crude solid which was purified using an ISCO (40 g) column chromatography eluting with 0-70% EA in hexanes. The desired fractions were combined and the solvent was removed under vacuum to obtain 115 mg (33.4%) of (E)-5-amino-1-(1-(cyclopentylimino)-2-(3,4,5-trimethoxyphenyl)-2-oxoethyl)-1H-pyrazole-4-carbonitrile as alight yellow solid. 1H NMR (400 MHz, DMSO-d6): 1.50-1.80 (br m, 8H), 3.67 (p, 1H), 3.79 (s, 3H), 3.81 (s, 6H), 7.06 (s, 2H), 7.7 (s, 1H), 8.12 (br s, 2H). LC/MS calcd. for C20H23N5O4 (m/e) 397.433, obsd. 398.3 (M+H, ES+).

reactant | 3-(cyclopentylamino)-2-(3,4,5-trimethoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile | 0.865 mmol, 330 mg | C1(CCCC1)NC1=C(NC=2N1N=CC2C#N)C2=CC(=C(C(=C2)OC)OC)OC | C20H23N5O3
reactant | DMSO | 100 mL | CS(=O)C | C2H6OS
product | (E)-5-amino-1-(1-(cyclopentylimino)-2-(3,4,5-trimethoxyphenyl)-2-oxoethyl)-1H-pyrazole-4-carbonitrile | 115 mg, 33.4% | NC1=C(C=NN1/C(/C(=O)C1=CC(=C(C(=C1)OC)OC)OC)=N/C1CCCC1)C#N | C20H23N5O4
